US07939528B2
Step 2: Methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate
A solution of the methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate (2.04 g, 9.99 mmol) in glacial acetic acid (22 mL) and concentrated H2SO4 (2 mL) was hydrogenated on a Parr apparatus under 50 psi of hydrogen using 10% palladium on carbon (50% H2O, 0.200 g) as the catalyst. After 4 hours the reaction was filtered to remove the catalyst and washed 2× methanol, then concentrated to remove most of the acetic acid. The residue was neutralized using saturated Na2CO3 and the organics extracted twice with 25 mL ethyl acetate, then the combined organics washed with brine, dried (Na2SO4), filtered and concentrated to 2.0 g of methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate.

reactant | methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate | 9.99 mmol, 2.04 g | CC1(C(C2=CC=CC=C2C1)=O)C(=O)OC | C12H12O3
reactant | hydrogen | 0.200 g | [H][H] | H2
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
product | Methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate | CC1(CC2=CC=CC=C2C1)C(=O)OC | C12H14O2
